US07582773B2
Step 4: Synthesis of 4-(1,3-Dibenzyl-2-methyl-1H-indol-5-yl)-phenol.
The desired product was prepared using a procedure similar to step 4 of example 3. Thus, 1,3-dibenzyl-5-(4-methoxy-phenyl)-2-methyl-1H-indole (0.692 g, 1.657 mmol) was reacted with BBr3 (2.0 ml of a 1M solution in CH2Cl2) to give the product (0.347 g, 0.860 mmol, 52%) as an off-white solid, mp 170-171° C. 1H NMR (DMSO-d6) δ 2.34 (s, 3H), 4.09 (s, 2H), 5.41 (s, 2H), 6.79 (d, J=8.5 Hz, 2H), 6.98 (d, J=7.3 Hz, 2H), 7.09-7.14 (m, 1H), 7.20-7.23 (m, 6H), 7.28 (t, J=7.1 Hz, 2H), 7.35-7.38 (m, 3H), 7.52 (d, J=1.3 Hz, 1H), 9.31 (s, 1H); IR (solid) 3530, 3020, 1600, 1480, 1260 and 11180 cm−1; [ESI(+)], m/z 404 (M+H)+; Anal. Calcd. for C29H25NO: C, 86.32; H, 6.24; N, 3.47; Found: C, 86.30; H, 5.99; N, 3.09.

reactant | 1,3-dibenzyl-5-(4-methoxy-phenyl)-2-methyl-1H-indole | 1.657 mmol, 0.692 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OC)CC1=CC=CC=C1)C | C30H27NO
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(1,3-Dibenzyl-2-methyl-1H-indol-5-yl)-phenol | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)O)CC1=CC=CC=C1)C | C29H25NO
